* source PSPICEQUIZ
R_R1         VIN1 VOUT1 1k 
V_V1         VIN1 0 PWL
+ TIME_SCALE_FACTOR={1/1k}
+ VALUE_SCALE_FACTOR=15
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
D_D1         N00497 VOUT1 D1N4734A 
D_D2         N00497 0 D1N4734A 
R_R2         N01020 VOUT2 10k 
M_M1         VOUT2 VIN2 0 0 M1           
V_V2         N01020 0 5
V_V3         VIN2 0 0
C_C1         N01456 VOUT3 1000u 
C_C2         N01380 0 1000u 
I_I1         N01380 N01373 DC 1m
V_V4         N01435 0  DC 15
V_V5         0 N01373  DC 15
R_RL         0 VOUT3 10k 
R_RD         N01456 N01435 10k 
M_M2         N01456 VIN3 N01380 N01380 ZVN3306A           
V_V6         VIN3 0  AC 20 0
